US06265423B1
c) Preparation of (5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenyl)methyl-triphenyl-phosphonium bromide
The 6-bromomethyl-1,1,4,4-tetramethyl-1,2,3,4-tetrahydronaphthalene (9.0 g, 32.0 mmol) prepared in the previous step is mixed with triphenylphosphine (10.1 g, 38.4 mmol) in solution in 50 ml of dichloromethane for 24 hours, and then diluted with ethyl ether (200 ml). The (5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenyl)methyl-triphenyl-phosphonium bromide precipitates, is filtered and washed with ether. The white crystals obtained (15.0 g, yield 86%) are dried in a desiccator.

reactant | 6-bromomethyl-1,1,4,4-tetramethyl-1,2,3,4-tetrahydronaphthalene | 32.0 mmol, 9.0 g | BrCC=1C=C2C(CCC(C2=CC1)(C)C)(C)C | C15H21Br
reactant | triphenylphosphine | 38.4 mmol, 10.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ethyl ether | 200 ml | C(C)OCC | C4H10O
product | (5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenyl)methyl-triphenyl-phosphonium bromide | yield 86% | [Br-].CC1(C=2C=CC(=CC2C(CC1)(C)C)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C33H36P.BrH/c1-32(2)22-23-33(3,4)31-24-26(20-21-30(31)32)25-34(27-14-8-5-9-15-27,28-16-10-6-11-17-28)29-18-12-7-13-19-29;/h5-21,24H,22-23,25H2,1-4H3;1H/q+1;/p-1
